US06660751B1
4-(4-Methyl-1H-benzimidazol-2-yl)piperidine (D15)
The title compound was prepared from isonipecotic acid and 2,3 diamino toluene using the method described in Description 14. MH+ 216.

reactant | isonipecotic acid | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | 2,3 diamino toluene | NC1=C(C=CC=C1N)C | C7H10N2
product | 4-(4-Methyl-1H-benzimidazol-2-yl)piperidine | CC1=CC=CC=2NC(=NC21)C2CCNCC2 | C13H17N3
